US05395846
To a mixture of 150 ml of concentrated sulfuric acid and 15 ml of concentrated nitric acid, cooled to 10° C. is added 10 g (0.053 moles) of 1-adamantanamine hydrochloride over 5 minutes. This mixture is stirred in an ice bath for 4 hours. The reaction is then poured over ice and the pH adjusted to pH 10 using 50% NaOH. The product is extracted into chloroform which is dried over MgSO4 and then evaporated to dryness. The residue is recrystallized from ethyl acetate to give 3-hydroxytricyclo[3.3.1.13,7 ]decan- 1-amine (m.p. 260°-264° C.) which is used directly is step B.

reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-adamantanamine hydrochloride | 0.053 moles, 10 g | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 3-hydroxytricyclo[3.3.1.13,7 ]decan- 1-amine | OC12CC3(CC(CC(C1)C3)C2)N | C10H17NO
